US04954502
(c) 1-(5-chloro-3-methoxy-2-pyridinyl)piperazine
Anhydrous piperazine (13.41 g) and 2-bromo-5-chloro-3-methoxypridine (3.50 g) were heated in an autoclave at 100° C. for 20 h. The mixture was dissolved in water (10 mL) and extracted with CH2Cl2 (3×100 mL). The combined organic extracts were washed with a saturated NaCl soution, dried with K2CO3, filtered and concentrated under reduced pressure. Silica gel chromatography (CH2Cl2 /MeOH; 90:10) of the residue yielded product (1.17 g, 33%).

reactant | piperazine | 13.41 g | N1CCNCC1 | C4H10N2
reactant | 2-bromo-5-chloro-3-methoxypridine | 3.50 g | BrC1=NC=C(C=C1OC)Cl | C6H5BrClNO
solvent | water | 10 mL | O | H2O
product | 1-(5-chloro-3-methoxy-2-pyridinyl)piperazine | 1.17 g, 33% | ClC=1C=C(C(=NC1)N1CCNCC1)OC | C10H14ClN3O
